US05231102
Trans and cis-2-carboxy-4-oxo-3,5,7-trimethyl-1,2,3,4-tetrahydroquinoline
These compounds were prepared by the route outlined in Example 1 using 3,5-dimethyl aniline and diethyloxalpropionate as the starting materials in the first step. The cis and the trans isomers were distinguished by X-ray crystallography. Trans isomer (Example 3) [m.p. 156°-157° C. (diethyl ether)]; δ (360 MHz, CDCl3), 1.35 (3H, d, J=7.2 Hz, CH3CHBCHA), 2.23 (3H, s, CH3Ar), 2.54 (3H, s, CH3Ar), 2.97 (1H, m, CH3CHBCHA), 3.97 (1H, d, J=4.9 Hz, CH3CHACHB), 6.40 (2H, s, 6-H and 8-H); m/e 233 (M+), 188 (100%, -CO2H); Found: C, 66.73; H, 6.50; N, 5.95. C13H15NO3 requires C, 66.94; H, 6.48; N. 6.00%. Cis-isomer (Example 4) (oil); δ (250 MHz, CDCl3) 1.17 (3H, d, J=7.2 Hz, CH3CHBCHA). 2.24 (3H, s, CH3Ar), 2.57 (3H, s, CH3Ar), 2.95 (1H, dq, J=7.2 and 4.0 Hz, CH3CHBCHA), 4.43 (1H, d, J=4.0 Hz, CH3CHBCHA), 4.90 (1H, br, s, NH), 6.40 (1H, s, 6-H or 8-H), 6.42 (1H, s, 6-H or 8-H); m/e 233 (M+), 188 (100%, M-CO2H); Found: C, 64.97; H, 6.53; N, 5.72. C13H15NO3.0.4 H2O requires C, 64.93; H, 6.62; N, 5.82%.

reactant | 3,5-dimethyl aniline | CC=1C=C(N)C=C(C1)C | C8H11N
reactant | diethyloxalpropionate | CCOC(=O)C(C)C(=O)C(=O)OCC | C9H14O5
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | H2O | O | H2O
product | cis-2-carboxy-4-oxo-3,5,7-trimethyl-1,2,3,4-tetrahydroquinoline | C(=O)(O)[C@@H]1NC2=CC(=CC(=C2C([C@@H]1C)=O)C)C | C13H15NO3
